US05268387
4-Keto-6-phenylhex-2-ynoic acid
A solution of Jones Reagent (a 2.67M solution in sulphuric acid; 2.07 ml, 5.5 mmol) was added dropwise to a solution of 4-hydroxy-6-phenylhex-2-ynoic acid (750 mg, 3.7 mmol) in acetone (12 ml) at 0° and the reaction mixture was maintained at 0° for 70 minutes. The mixture was quenched with ethanol (2 ml) and extracted with ethyl ether. Evaporation of the dried (magnesium sulphate) extracts gave the title acid as a yellow oil which was used directly in the next step.

reactant | Jones Reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 4-hydroxy-6-phenylhex-2-ynoic acid | 3.7 mmol, 750 mg | OC(C#CC(=O)O)CCC1=CC=CC=C1 | C12H12O3
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 12 ml | CC(=O)C | C3H6O
product | 4-Keto-6-phenylhex-2-ynoic acid | O=C(C#CC(=O)O)CCC1=CC=CC=C1 | C12H10O3
